US06002008
3-(3-Cyano-6,7-dimethoxy-quinolin-4-ylamino)-2-methyl-benzoic acid
Using an analogous procedure to that described in Example 367, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 12 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 196.5 mg (1.3 mmol) of 3-amino-2-methylbenzoic acid to give 89.6 mg (24.7%) of the product as a gray solid, m.p. 242-245° C., mass (electrospray, m/e): M+H 364.0.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 3-amino-2-methylbenzoic acid | 1.3 mmol, 196.5 mg | NC=1C(=C(C(=O)O)C=CC1)C | C8H9NO2
solvent | 2-ethoxyethanol | 12 mL | C(C)OCCO | C4H10O2
product | 3-(3-Cyano-6,7-dimethoxy-quinolin-4-ylamino)-2-methyl-benzoic acid | 89.6 mg, 24.7% | C(#N)C=1C=NC2=CC(=C(C=C2C1NC=1C(=C(C(=O)O)C=CC1)C)OC)OC | C20H17N3O4
